US06576641B2
8-Butyl-1,4-dioxa-8-azaspiro[4,5]decane:
A mixture of 1,4-dioxa-8-azaspiro[4,5]decane (20.0 g, 140 mmol), 1-bromobutane (21,0 g, 154 mmol), potassium carbonate (19.3 g, 140 mmol) and dimethyl formamide (200 ml) was stirred for 5 h at 80° C. Sodium hydroxide (200 ml, 1 M) was added. The mixture was extracted three times with diethyl ether (200 ml). The product was isolated as an oil, in quantitative yield.

reactant | 1,4-dioxa-8-azaspiro[4,5]decane | 140 mmol, 20.0 g | O1CCOC12CCNCC2 | C7H13NO2
reactant | 1-bromobutane | 154 mmol, 21,0 g | BrCCCC | C4H9Br
reactant | potassium carbonate | 140 mmol, 19.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | Sodium hydroxide | 1 M, 200 ml | [OH-].[Na+]
solvent | dimethyl formamide | 200 ml | CN(C=O)C | C3H7NO
product | 8-Butyl-1,4-dioxa-8-azaspiro[4,5]decane | quantitative yield | C(CCC)N1CCC2(OCCO2)CC1 | C11H21NO2
